US04559344
(b) Production of 3-(6-methyl-3-pyridyl)-acrylic acid ethyl ester
1.5 ml of piperidine are added to a solution of 25 g (0.19 mole) of malonic acid monoethyl ester in 50 ml of pyridine, followed by the dropwise addition of 17 g (0.14 mole) of 6-methyl-3-pyridine aldehyde. The mixture is refluxed for 5 hours and, after cooling, is poured onto a mixture of ice and concentrated hydrochloric acid. After extraction by shaking with diethyl ether, the organic phase is dried over sodium sulfate and concentrated by evaporation in vacuo, leaving 17.8 g (67%) of the title compound in the form of an oil which is further processed without purification.

reactant | piperidine | 1.5 ml | N1CCCCC1 | C5H11N
reactant | malonic acid monoethyl ester | 0.19 mole, 25 g | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | 6-methyl-3-pyridine aldehyde | 0.14 mole, 17 g | CC1=CC=C(C=N1)C=O | C7H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-(6-methyl-3-pyridyl)-acrylic acid ethyl ester | 17.8 g, 67% | C(C)OC(C=CC=1C=NC(=CC1)C)=O | C11H13NO2
